US09119868B2
A suspension of 6-(N-(4-amino-3-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (200 mg, 0.39 mmol) in acetonitrile (5 mL) and aqueous hydrogen bromide solution (5 mL) was treated with an aqueous sodium nitrite (29.6 mg, 0.43 mmol) solution at 0° C. with stirring for 0.5 hours. Cuprous bromide (64.3 mg, 0.45 mmol) was then added to the solution in portions at 0° C., and heated to reflux for 2 hours. The solution was cooled to room temperature and partitioned between ethyl acetate and water. The organic layer was separated, dried over sodium sulfate, filtered, concentrated to dryness, and purified by column chromatography to afford 6-(N-(4-bromo-3-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (140 mg, 0.24 mmol, 61% yield) as a white solid. LCMS (m/z, ES+)=575, 577 (M+H+)

reactant | 6-(N-(4-amino-3-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.39 mmol, 200 mg | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C26H23F2N3O4S
reactant | sodium nitrite | 0.43 mmol, 29.6 mg | N(=O)[O-].[Na+]
reactant | hydrogen bromide | 5 mL | Br | BrH
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 6-(N-(4-bromo-3-fluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.24 mmol, 140 mg, 61% yield | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C26H21BrF2N2O4S
